US05051417
1,3-Dihydro-5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3-(2-thienylmethylene)-2H-indole- 2-one
Starting from 5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-1,3-dihydro-2H-indol-2-one and 2-thiophene carboxaldehyde and following the method described in Example 10, the desired compound was obtained.

reactant | 5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-1,3-dihydro-2H-indol-2-one | CC1C(=NNC(S1)=O)C=1C=C2CC(NC2=CC1)=O | C12H11N3O2S
reactant | 2-thiophene carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
product | 1,3-Dihydro-5-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3-(2-thienylmethylene)-2H-indole- 2-one | Yield: 19% | CC1C(=NNC(S1)=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1SC=CC1 | C17H13N3O2S2
